data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1872,2076,[CH3:16][O:17][C:18](=[O:19])[C:20]([C:21]#[N:22])=[O+:23][C-:24]([C:25]#[N:26])[C:27]([CH3:28])=[O:29].[CH3:1][C:2](=[O:3])[C:4]1([C:5]([F:6])([F:7])[F:8])[C:9]#[C:10][CH2:11][CH2:12][CH2:13][CH2:14][CH2:15]1>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]([F:6])([F:7])[F:8])[C:9]2=[C:10]([CH2:11][CH2:12][CH2:13][CH2:14][CH2:15]1)[C:20]([C:18]([O:17][CH3:16])=[O:19])([C:21]#[N:22])[O:23][C:24]2([C:25]#[N:26])[C:27]([CH3:28])=[O:29],water,298.15,6.585637189106014,-63.96369334355968
2306,2556,[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]([CH3:7])=[O:8])[C:9]#[C:10][C:11]([C:12]([CH3:13])=[O:14])([C:15]([CH3:16])=[O:17])[CH2:18][CH2:19][CH2:20][CH2:21]1.[CH3:22][NH:23][C:24](=[O:25])[c-:26]1[o+:27][c:28]([CH3:29])[o:30][c:31]1=[O:32]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]([CH3:7])=[O:8])[C:9]2=[C:10]([C:11]([C:12]([CH3:13])=[O:14])([C:15]([CH3:16])=[O:17])[CH2:18][CH2:19][CH2:20][CH2:21]1)[C:26]1([C:24]([NH:23][CH3:22])=[O:25])[O:27][C:28]2([CH3:29])[O:30][C:31]1=[O:32],water,298.15,26.260213686019693,-19.317512127466703
4530,5170,[C:11](#[N+:12][CH-:13][c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1.[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:11]([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)=[N:12][CH:13]2[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1,water,298.15,17.958388705749556,-32.183534250406254
1447,1589,[CH3:1][NH:2][C:3](=[O:4])[CH:5]1[C:6]#[C:7][C:8]([Cl:9])([Cl:10])[CH2:11][CH2:12][CH2:13][CH2:14]1.[CH:15]#[N+:16][C-:17]([C:18]([CH3:19])=[O:20])[C:21](=[O:22])[NH:23][CH3:24]>>[CH3:1][NH:2][C:3](=[O:4])[CH:5]1[C:6]2=[C:7]([C:8]([Cl:9])([Cl:10])[CH2:11][CH2:12][CH2:13][CH2:14]1)[C:17]([C:18]([CH3:19])=[O:20])([C:21](=[O:22])[NH:23][CH3:24])[N:16]=[CH:15]2,water,298.15,17.862299370678667,-57.90323644615989
3839,4393,[CH3:9][O:10][C:11](=[O:12])[C-:13]([CH3:14])[O+:15]=[C:16]([CH3:17])[C:18]([CH3:19])=[O:20].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:13]([C:11]([O:10][CH3:9])=[O:12])([CH3:14])[O:15][C:16]1([CH3:17])[C:18]([CH3:19])=[O:20],water,298.15,9.787182904476817,-43.329713106204494
91,102,[CH3:11][C:12](=[O:13])[C-:14]([CH3:15])[N+:16]#[N:17].[CH3:1][C:2]1=[C:3]([C:4]#[N:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][C:2]1=[C:3]([C:4]#[N:5])[CH:6]2[CH:7]3[CH:8]([CH:9]1[O:10]2)[C:14]([C:12]([CH3:11])=[O:13])([CH3:15])[N:16]=[N:17]3,water,298.15,23.94091392533113,-22.607629000989142
4280,4896,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][C:8](=[O+:9][C-:10]([CH3:11])[c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1)[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:10]([CH3:11])([c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)[O:9][C:8]1([CH3:7])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,water,298.15,11.811805326633388,-38.0672110301929
892,965,[CH3:12][NH:13][C:14](=[O:15])[c-:16]1[c:17](=[O:18])[o:19][c:20]([C:21]#[N:22])[n+:23]1[CH3:24].[CH3:1][O:2][C:3]1=[C:4]([C:5]#[N:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][O:2][C:3]12[C:4]([C:5]#[N:6])([CH:7]3[CH:8]=[CH:9][CH:10]1[O:11]3)[C:20]1([C:21]#[N:22])[O:19][C:17](=[O:18])[C:16]2([C:14]([NH:13][CH3:12])=[O:15])[N:23]1[CH3:24],water,298.15,26.47230267549645,0.9604448074570644
5235,5939,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[C-:19]([O+:20]=[C:21]([CH3:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[C:29](=[O:30])[NH:31][CH3:32]>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[C:19]([C:17]([NH:16][CH3:15])=[O:18])([C:29](=[O:30])[NH:31][CH3:32])[O:20][C:21]2([CH3:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1,water,298.15,18.41038157638804,-20.21899268451256
2081,2309,[CH3:17][C:18](=[O:19])[C:20]([CH3:21])=[N+:22]([CH3:23])[CH-:24][c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1.[CH3:1][O:2][C:3]1([C:4]([F:5])([F:6])[F:7])[C:8]#[C:9][C:10]([F:11])([F:12])[CH2:13][CH2:14][CH2:15][CH2:16]1>>[CH3:1][O:2][C:3]1([C:4]([F:5])([F:6])[F:7])[C:8]2=[C:9]([C:10]([F:11])([F:12])[CH2:13][CH2:14][CH2:15][CH2:16]1)[CH:24]([c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1)[N:22]([CH3:23])[C:20]2([C:18]([CH3:17])=[O:19])[CH3:21],water,298.15,10.800437791183889,-47.15247892956091
2550,2830,[CH3:1][O:2][C:3]1([C:4]([CH3:5])=[O:6])[C:7]#[C:8][C:9]([C:10]([CH3:11])=[O:12])([C:13]([CH3:14])=[O:15])[CH2:16][CH2:17][CH2:18][CH2:19]1.[CH3:20][O:21][C:22](=[O:23])[CH:24]=[NH+:25][C-:26]([C:27]([CH3:28])=[O:29])[c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1>>[CH3:1][O:2][C:3]1([C:4]([CH3:5])=[O:6])[C:7]2=[C:8]([C:9]([C:10]([CH3:11])=[O:12])([C:13]([CH3:14])=[O:15])[CH2:16][CH2:17][CH2:18][CH2:19]1)[C:26]([C:27]([CH3:28])=[O:29])([c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1)[NH:25][CH:24]2[C:22]([O:21][CH3:20])=[O:23],water,298.15,12.280910259229904,-29.3133103974206
